US08748442B2
A mixture of 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carboxamide (120 mg, 1 equiv) and oxalyl chloride (106 μl, 3 equiv) in 1,2-dichloroethane (2.0 ml) was heated to reflux for 24 h. The mixture was cooled to room temperature and purified by column chromatography (0 to 100% ethyl acetate in hexanes) to give 68 mg of 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carbonyl isocyanate (52% yield) as a brown solid.

reactant | 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carboxamide | 120 mg, 1 equiv | FC1=C(CN2N=C(C=C2C(=O)N)C2=NC=CC=N2)C=CC=C1 | C15H12FN5O
reactant | oxalyl chloride | 106 μl, 3 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 2.0 ml | ClCCCl | C2H4Cl2
product | 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carbonyl isocyanate | 68 mg, 52% yield | FC1=C(CN2N=C(C=C2C(=O)N=C=O)C2=NC=CC=N2)C=CC=C1 | C16H10FN5O2
